US04590010
A solution of 0.5 g of 6-methoxy-5-trifluoromethyl-1-cyanonaphthalene and 0.6 g of potassium hydroxide in 25 ml of a 20/5 mixture of methanol and water was charged into an autoclave, heated to 130° C. and stirred for 5-6 hours at an internal pressure of 90-100 psi. The reaction mixture was then cooled and worked up to provide a 98% recovered yield of 100% pure 6-methoxy-5-trifluoromethyl-1-naphthoic acid.

reactant | 6-methoxy-5-trifluoromethyl-1-cyanonaphthalene | 0.5 g | COC=1C(=C2C=CC=C(C2=CC1)C#N)C(F)(F)F | C13H8F3NO
reactant | potassium hydroxide | 0.6 g | [OH-].[K+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 6-methoxy-5-trifluoromethyl-1-naphthoic acid | yield of 100% | COC=1C(=C2C=CC=C(C2=CC1)C(=O)O)C(F)(F)F | C13H9F3O3
